US05580904
N-[(2-hydroxy)ethyl]-5-methylthiazolium bromide
To the mixture of 5-methylthiazole (10 g) and dioxane (20 ml) was added 2-bromoethanol (15 g), and the resulting mixture was heated under reflux for 4 hours. To the mixture left standing at room temperature for about 0.5 hour was added acetone (100 ml) with stirring to crystallize pale yellow solids. The supernatant was discarded, and acetone (50 ml) and ether (150 ml) were added with stirring to give white to pale yellow solids, which were collected by filtration, washed with ether and dried under reduced pressure.

reactant | 5-methylthiazole | 10 g | CC1=CN=CS1 | C4H5NS
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | 2-bromoethanol | 15 g | BrCCO | C2H5BrO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-[(2-hydroxy)ethyl]-5-methylthiazolium bromide | [Br-].OCC[N+]1=CSC(=C1)C | InChI=1S/C6H10NOS.BrH/c1-6-4-7(2-3-8)5-9-6;/h4-5,8H,2-3H2,1H3;1H/q+1;/p-1
